US04254260
To a solution of ethyl 2-(3-methylureido)thiazol-4-ylacetate (12.8 g.) in a mixture of methanol (240 ml.) and water (240 ml.) was dropwise added 1 N potassium hydroxide aqueous solution (52.7 ml.) with stirring at room temperature, and the solution was stirred for overnight at the same temperature, and then methanol was distilled off therefrom under reduced pressure. The remaining aqueous layer was washed with ethyl acetate, and then 1 N hydrochloric acid (52.7 ml.) was added thereto under ice-cooling. The precipitated crystals were collected by filtration, washed with water and then dried to give colorless crystals of 2-(3-methylureido)thiazol-4-ylacetic acid (9.7 g.), mp 190° C. (dec.).

reactant | ethyl 2-(3-methylureido)thiazol-4-ylacetate | 12.8 g | CNC(NC=1SC=C(N1)CC(=O)OCC)=O | C9H13N3O3S
reactant | potassium hydroxide | 1 N, 52.7 ml | [OH-].[K+]
solvent | methanol | 240 ml | CO | CH4O
solvent | water | 240 ml | O | H2O
product | 2-(3-methylureido)thiazol-4-ylacetic acid | 9.7 g | CNC(NC=1SC=C(N1)CC(=O)O)=O | C7H9N3O3S
